US04559177
The above 18-acetoxy compound was deacetylated by the corresponding procedure of Example 6 and the resultant 6-(18-hydroxyoctadecyl)-2,3-dimethoxy-5-methylphenol (0.5 g) is dissolved in dimethylformamide (1 l). To this solution is added potassium nitrosodisulfonate (13 g), 700 ml of water, 100 ml of methanol and monopotassium phosphate (1 g), and the mixture is stirred at room temperature for 45 days. The product is extracted in the conventional manner and recrystallized from ether-hexane. The above procedure yields 6-(18-hydroxyoctadecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone as yellow needles (0.31 g), m.p. 81° C.

reactant | 6-(18-hydroxyoctadecyl)-2,3-dimethoxy-5-methylphenol | 0.5 g | OCCCCCCCCCCCCCCCCCCC1=C(C=C(C(=C1O)OC)OC)C | C27H48O4
reactant | potassium nitrosodisulfonate | 13 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | water | 700 ml | O | H2O
reactant | monopotassium phosphate | 1 g | P(=O)([O-])(O)O.[K+]
solvent | dimethylformamide | 1 l | CN(C=O)C | C3H7NO
solvent | methanol | 100 ml | CO | CH4O
product | 6-(18-hydroxyoctadecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 0.31 g | OCCCCCCCCCCCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C27H46O5
